US04243819
To a solution of o-fluoroaniline (3.9 g) in methylene chloride (50 ml), cooled to -20° under nitrogen, is added a solution of 2,4,4,6-tetrabromocyclohexadienone (35 mmol) in methylene chloride. After several hours, reaction is poured into 15% NaOH solution. The layers are separated and the organic fraction shaken against 15% NaOH solution. The methylene chloride fraction is washed with saturated NaCl solution, dried over calcium sulfate and evaporated to yield 4-bromo-2-fluoroaniline.

reactant | o-fluoroaniline | 3.9 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | 2,4,4,6-tetrabromocyclohexadienone | 35 mmol | BrC=1C(C(=CC(C1)(Br)Br)Br)=O | C6H2Br4O
reactant | NaOH | [OH-].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-fluoroaniline | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
